US04478833
8-(N-Benzyl-butylamino)-2-(2-hydroxyethyl-amino)-4-(1-oxido-thiomorpholino)-pyrimido[5,4-d]pyrimidine
This compound was prepared analogous to Example 2 from 8-(N-benzyl-butylamino)-2-chloro-4-(1-oxido-thiomorpholino)-pyrimido[5,4-d]pyrimidine (melting point: 153°-155° C.) and 2-hydroxyethyl-amine.

reactant | 8-(N-benzyl-butylamino)-2-chloro-4-(1-oxido-thiomorpholino)-pyrimido[5,4-d]pyrimidine | C(C1=CC=CC=C1)N(C1=NC=NC2=C1N=C(N=C2N2CCS(CC2)=O)Cl)CCCC | C21H25ClN6OS
reactant | 2-hydroxyethyl-amine | OCCN | C2H7NO
product | 8-(N-Benzyl-butylamino)-2-(2-hydroxyethyl-amino)-4-(1-oxido-thiomorpholino)-pyrimido[5,4-d]pyrimidine | C(C1=CC=CC=C1)N(C1=NC=NC2=C1N=C(N=C2N2CCS(CC2)=O)NCCO)CCCC | C23H31N7O2S
